Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
IUGR < 5%
 
Major Surgical or Invasive Procedure:
Cesarean delivery

 
History of Present Illness:
___ GP @ ___ was having post-dates testing in the ___ where 
she was found to have IUGR with EFW 2684g (<5%ile) with normal 
fluid (AFI 11.3cm) and S/D ratio. Also had ___ BPP, was 
cephalic, and fundal placenta. Rare contractions. No lof or VB. 
+AFM.

 
Past Medical History:
PNC:
*) Dating: ___: ___ by LMP c/w 8wk US
*) Labs: A+/Ab-/RPRNR/RI/HbsAg-/HIV-/GBS+
*) Routine:
- Genetics: LR ___
- U/S: nl full fetal survey
- GTT wnl
*) Issues
- h/o genital HSV on valtrex. Last outbreak in ___
- h/o LSIL pap at initial PNV s/p colpo with acetowhite lesions

POBHx: G2P1
-G1: ___, SVD, 6#0
-G2 current
PGynHx: h/o genital HSV as above. h/o abnormal paps as above.
PMH: denies
PSH: denies
Meds: PNV, valtrex
All: NKDA
SH: Denies EtOH/Smoking/Drugs
 
Social History:
Denies EtOH/Smoking/Drugs

 
Physical Exam:
On admission:

PE: 112/68, 77
Gen: NAD
Abd: soft, gravid, NT, EFW by ___ 6#
SVE: ___
SSE: no herpetic lesions seen
FHT: 125, mod var, +accels, no decels
Toco: no clear contractions

Physical Exam on Discharge:  
 CONSTITUTIONAL: normal  
 HEENT: normal, MMM  
 NEURO: alert, appropriate, oriented x 4  
 RESP: no increased WOB  
 HEART: extremities warm and well perfused  
 ABDOMEN: non-tender  
 EXTREMITIES: non-tender, no edema  

 
Brief Hospital Course:
The patient was admitted on ___ with a fetal arrhythmia. She 
was admitted overnight until she was seen by the ___ team in the 
morning. The patient was seen by the Maternal Fetal Medicine 
team and the recommendation was to proceed with a delivery.

The fetus was found in the breech presentation, so she proceeded 
with an uncomplicated low transverse C/S. Please see the Op 
report for full details

The patient had an uncomplicated postpartum course. She was 
discharged on ___ after meeting all post-operative 
milestones. She was ambulating independently, tolerating a 
regular diet, voiding spontaneously and her pain was well 
controlled. The plan is for postnatal follow-up for the fetal 
arrhythmia.
 
Medications on Admission:
PNV
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Mild Pain 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*2 
2.  ___ (norethindrone (contraceptive)) 0.35 mg oral DAILY 
RX *norethindrone (contraceptive) 0.35 mg 1 tablet(s) by mouth 
every 24 hour Disp #*28 Tablet Refills:*3
RX *norethindrone (contraceptive) [___] 0.35 mg 1 tablet(s) 
by mouth daily Disp #*90 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*2 
4.  Ibuprofen 600 mg PO Q6H:PRN Moderate Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*2 
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every ___ hours Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cesarean delivery
Fetal Arrhythmia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please refer to your discharge packet and the instructions 
below:
C/S:
Nothing in the vagina for 6 weeks (No sex, douching, tampons)
No heavy lifting for 6 weeks
Do not drive while taking narcotics (i.e. Oxycodone, Percocet)
Do not take more than 4000mg acetaminophen (tylenol) in 24 hrs
Do not take more than 2400mg ibuprofen in 24 hrs
Please call the on-call doctor at ___ if you develop 
shortness of breath, dizziness, palpitations, fever of 100.4 or 
above, abdominal pain, increased redness or drainage from your 
incision, nausea/vomiting, heavy vaginal bleeding, or any other 
concerns.

 
Followup Instructions:
___